US07531532B2
4-(4-Amino-3-chlorophenoxy)-2-[(morpholin-4-yl)carbonylamino]pyridine
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (236 mg) as disclosed in WO 02/32872 was dissolved in tetrahydrofuran (10 ml) under a nitrogen atmosphere, and then triethylamine (0.21 ml) and phenyl chloroformate (0.188 ml) were added dropwise thereto while cooling in an ice bath, followed by raising the temperature gradually to room temperature and stirring overnight. To the reaction mixture were added N,N-dimethylformamide (2 ml) and morpholine (0.5 ml), followed by further stirring for 1 day. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether-hexane was added to suspend, followed by evaporating the solvent. The residue was dried in vacuum to provide the titled compound (172 mg, 49%) as white powder.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 236 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.188 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | morpholine | 0.5 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(4-Amino-3-chlorophenoxy)-2-[(morpholin-4-yl)carbonylamino]pyridine | 172 mg, 49% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)Cl | C16H17ClN4O3
